US04816452
b. Chloromethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate
A solution of chloromethylchlorosulphate (2.21 g) in dichloromethane (5 ml) was added dropwise to a stirred mixture of 4-[N-(4-nitrobenzyloxycarbonyl)glycylamino]-benzoic acid (4.00 g), sodium bicarbonate (3.00 g) and tetrabutylammonium hydrogen sulphate (0.493 g) in dichloromethane-water (1:1, 50 ml). The mixture was stirred at room temperature for 3 h. The organic phase was separated and the aqueous phase washed with dichloromethane (50 ml). The combined organic extracts were dried (MgSO4), concentrated to low volume and applied to a column of Kieselgel 60. Elution with 50% ethyl acetate/hexane afforded the title compound as a white solid (46%); m.p. 163°-5° (ethyl acetate), (Found: C, 51.49; H, 3.79; N, 9.76. C18H16N3O7Cl requires C, 51.26; H, 3.82; N, 9.96%); νmax (Nujol) 3400, 3300, 1740, 1685, and 1610 cm-1 ; δH (CDCl3 /D6 -DMSO) 3.95 (2H, d, J 6.0 Hz), 5.25 (2H, s), 5.97 (2H, s), and 7.35-8.20 (10H, m).

reactant | chloromethylchlorosulphate | 2.21 g | ClCOS(=O)(=O)Cl | CH2Cl2O3S
reactant | 4-[N-(4-nitrobenzyloxycarbonyl)glycylamino]-benzoic acid | 4.00 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C17H15N3O7
reactant | sodium bicarbonate | 3.00 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 0.493 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane water | 50 ml | ClCCl.O
product | Chloromethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate | 46% | ClCOC(C1=CC=C(C=C1)NC(CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C18H16ClN3O7
